US06831193B2
N-(2-phenylpropyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
Hydratropaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | Hydratropaldehyde | C(C(C)C1=CC=CC=C1)=O | C9H10O
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-(2-phenylpropyl)-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | C1(=CC=CC=C1)C(CN[C@H]1CCCC2=CC=CC=C12)C | C19H23N
